US09402397B2
To a solution of furan-2-ylethynyl)trimethylsilane (100 mg, 0.6097 mmol), phenyl azide (0.5 M solution, 2.42 ml, 1.2195 mmol), and CuI (116.11 mg, 0.6097 mmol) in THF (2 ml) was added 1,1,4,7,7-pentamethyldiethlene triamine (0.254 ml, 1.2195 mmol) and 1M TBAF.3H2O (1.20 ml, 1.2195 mmol). After stirring the reaction mixture for 20 hours at room temperature, it was quenched with saturated ammonium chloride solution and was extracted with ethyl acetate. The combined organic layers were washed with water, dried over anhydrous sodium sulfate and evaporated. The crude material was purified by column chromatography (100-200 mesh silica gel) using 5% ethyl acetate in hexane as eluent to yield 4-(furan-2-yl)-1-phenyl-1H-1,2,3-triazole (80 mg, 0.378 mmol, yield 62.18%) with an HPLC purity of 98.82%. LC-MS [M+H] 212 (C12H9N3O+H expected 212.07), mp 118-120° C. The 1H-NMR spectra was in accordance with the chemical structure.

reactant | trimethylsilane | 0.6097 mmol, 100 mg | C[SiH](C)C | C3H10Si
reactant | phenyl azide | 1.2195 mmol, 0.5 M, 2.42 ml | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
reactant | 1,1,4,7,7-pentamethyldiethlene triamine | 1.2195 mmol, 0.254 ml | CN(CCN(CCN(C)C)C)C | C9H23N3
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | CuI | 0.6097 mmol, 116.11 mg | [Cu]I
product | 4-(furan-2-yl)-1-phenyl-1H-1,2,3-triazole | 0.378 mmol, 80 mg, yield 62.18% | O1C(=CC=C1)C=1N=NN(C1)C1=CC=CC=C1 | C12H9N3O
